US07897802B2
To an autoclave (a volume of 1 L) was charged 349 g (3.0 mol) of n-heptanol and 0.06 g (0.27 mmol) of zinc bromide. The mixture was heated and stirred at 165° C. Into the mixture in this state was injected a mixed liquor of 57 g (0.66 mol) of methyl acrylate and 9.9 g (0.068 mol) of di-t-butylperoxide over 6 hours. The resulting mixture was stirred at the temperature for further 1 hour. Subsequently, unreacted n-heptanol was distilled off followed by vacuum distillation, yielding γ-decalactone. Gas chromatographic analysis showed that the yield of γ-decalactone was 69%. The resulting γ-decalactone was plastic-like in odor and acidulous, which indicated an inferior aroma.

reactant | n-heptanol | 3.0 mol, 349 g | C(CCCCCC)O | C7H16O
reactant | methyl acrylate | 0.66 mol, 57 g | C(C=C)(=O)OC | C4H6O2
reactant | di-t-butylperoxide | 0.068 mol, 9.9 g | C(C)(C)(C)OOC(C)(C)C | C8H18O2
catalyst | zinc bromide | 0.27 mmol, 0.06 g | [Br-].[Zn+2].[Br-]
product | γ-decalactone | CCCCCCC1CCC(=O)O1 | C10H18O2
